US05905079
A solution of 4-(4-chlorophenoxy)-1-(dimethylamino)-1-penten-3-one (14.5 g) in glacial acetic acid (100 ml) was added dropwise to a solution of 4-amino-1,2,4-triazole (5.0 g) in glacial acetic acid (100 ml). The solution was boiled under reflux for 4 hours and then poured into water (400 ml). The mixture was extracted with toluene. The combined organic extracts were washed with 10% sodium bicarbonate solution, then with water, dried over anhydrous magnesium sulphate, filtered, and evaporated under reduced pressure. Flash column chromatography of the residue on silica gel, using ethyl acetate/petroleum ether 1:1 as the mobile phase, afforded 1.52 g of 8-[1-(4-chlorophenoxy)ethyl]-1,2,4-triazolo[4,3-b]pyridazine. A pure sample was obtained by recrystallisation from a mixture of ethyl acetate and hexane, m.p. 98-99° C.

reactant | 4-(4-chlorophenoxy)-1-(dimethylamino)-1-penten-3-one | 14.5 g | ClC1=CC=C(OC(C(C=CN(C)C)=O)C)C=C1 | C13H16ClNO2
reactant | 4-amino-1,2,4-triazole | 5.0 g | NN1C=NN=C1 | C2H4N4
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 8-[1-(4-chlorophenoxy)ethyl]-1,2,4-triazolo[4,3-b]pyridazine | 1.52 g | ClC1=CC=C(OC(C)C=2C=3N(N=CC2)C=NN3)C=C1 | C13H11ClN4O
